US05002967
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]dihydro-2(3H)-furanone
Sodium hydroxide (0.20 g, 5 mmole) was added to a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (1.11 g, 4.6 mmole) in methanol (20 ml) and stirred at room temperature until dissolved. 2-Bromobutyrolactone (0.82 g, 5 mmole) was added and the mixture was stirred at room temperature for 48 hours. The mixture was diluted with water, acidified with 1 N hydrochloric acid, and extracted with diethyl ether. The ether extract was washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in a minimum of hexane and cooled to induce crystallization. Chromatography of the solid on silica gel and recrystallization from hexane gave the title compound, m.p. 98°'100°.

reactant | Sodium hydroxide | 5 mmole, 0.20 g | [OH-].[Na+]
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 4.6 mmole, 1.11 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 2-Bromobutyrolactone | 5 mmole, 0.82 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]dihydro-2(3H)-furanone | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1C(OCC1)=O | C18H26O3S
